US04764462
The N-succinimidyl-nicotinate compound described in Example 1 was reacted with the hydrochloric salt of ethanolamine, available commercially in its radioactive form. The ethanolamine salt was dissolved in dried DMF and chilled in an ice bath. To the mixture was added an equimolar of diisopropylethylamine (DIEA) and stirred for 15 minutes. An equimolar solution of N-succinimidyl-nicotinate was added to the ethylamine-DMF mixture dropwise under a nitrogen atmosphere. As the nicotinate was added the mixture turned milky and was slurried for at least another half hour. The milky substance was the N-hydroxy-succinimide precipitating, which was filtered off. The DMF-mixture was washed with ether to remove any precipitant. The solvent mixture was removed under high vaccum. The oily mixture was triturated with ether to yield a precipitant, N-(2-hydroxyethyl)nicotinamide. The radioactive compound was isolated and identified by its TLC.

reactant | N-succinimidyl-nicotinate | C1(CCC(N1N1CC(C(=O)[O-])=CC=C1)=O)=O
reactant | ethanolamine | C(O)CN | C2H7NO
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethylamine DMF | C(C)N.CN(C)C=O
reactant | nicotinate | C(C1=CN=CC=C1)(=O)[O-]
reactant | N-hydroxy-succinimide | ON1C(CCC1=O)=O | C4H5NO3
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(2-hydroxyethyl)nicotinamide | OCCNC(C1=CN=CC=C1)=O | C8H10N2O2
